US06342765B1
A mixture of 2-bromo-1-(thiazol-2-yl)ethanone (2.5 g; 12 mmol), acetonitrile (70 ml) and imidazole (1.65 g; 24 mmol) was stirred at ambient temperature for 1 hour. The mixture was evaporated to dryness and the residue partitioned between dichloromethane and water. The organic phase was separated, washed with saturated brine and evaporated to give 2-(imidazol-1-yl)-1-(thiazol-2-yl)-ethanone as a brown solid (1.17 g; 50%).

reactant | 2-bromo-1-(thiazol-2-yl)ethanone | 12 mmol, 2.5 g | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
reactant | imidazole | 24 mmol, 1.65 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-(imidazol-1-yl)-1-(thiazol-2-yl)-ethanone | N1(C=NC=C1)CC(=O)C=1SC=CN1 | C8H7N3OS
